US05719193
Step B: N-(t-Butoxycarbonyl)-2,3-butadienylamine
Reflux a mixture containing N-(t-butoxycarbonyl)-propargylamine (70 gm), 93.5 ml of 32% formaldehyde, 76.4 ml of diisopropylamine, 19.66 gm of cuprous bromide and 860 ml of p-dioxane for 12 hours. Cool and dilute the resulting mixture with 3000 ml of Et2O, wash with 500 ml of water, 1000 ml acetic acid, 500 ml of water (2×), 200 ml sat'd. sodium chloride, dry (MgSO4) and evaporate in vacuo. Flash chromatograph the residue eluting from silica gel with 10% Et2O/hexane to yield 40.8 g of the desired compound. Rf is 0.31 (eluted from silica gel with 10% EtOAc/hexane).

reactant | N-(t-butoxycarbonyl)-propargylamine | 70 gm | C(C)(C)(C)OC(=O)NCC#C | C8H13NO2
reactant | formaldehyde | 93.5 ml | C=O | CH2O
reactant | diisopropylamine | 76.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | p-dioxane | 860 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | 3000 ml | CCOCC | C4H10O
product | N-(t-Butoxycarbonyl)-2,3-butadienylamine | 40.8 g | C(C)(C)(C)OC(=O)NCC=C=C | C9H15NO2
